US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 3-nitro-4-fluoroaniline to yield 2-[(3-nitro-4-fluorophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 3-nitro-4-fluoroaniline | [N+](=O)([O-])C=1C=C(N)C=CC1F | C6H5FN2O2
product | 2-[(3-nitro-4-fluorophenyl)amino]phenylacetic acid | [N+](=O)([O-])C=1C=C(C=CC1F)NC1=C(C=CC=C1)CC(=O)O | C14H11FN2O4
